US03991061
11 Parts of 8-hydroxy-3-methoxy-5,6,7,8-tetrahydro-2-azanaphthalene-7-acetate described in Example 1 is added to 110 parts by volumn of sulfuric acid at room temperature and stirred for 15 minutes. 200 Parts of ice water are added and the solution is made basic with 300 parts by volume of aqueous ammonia. The solution is filtered through celite and then extracted three times with chloroform. Removal of the chloroform and crystallization from methanol provides 3-methoxy-7,8-dihydro-2-azanaphthalene-7-acetic acid, melting at 151-152° C and having the following formula ##SPC27##

reactant | 8-hydroxy-3-methoxy-5,6,7,8-tetrahydro-2-azanaphthalene-7-acetate | OC1C(CCC=2C=C(N=CC12)OC)CC(=O)[O-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
product | 3-methoxy-7,8-dihydro-2-azanaphthalene-7-acetic acid | COC=1N=CC=2CC(C=CC2C1)CC(=O)O | C12H13NO3
